US05616610
e) Methyl (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate
(R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran (3.7 g, 8.7 mmol), DMF (50 mL), triethylamine (2.5 g, 25 mmol), methanol (4 g, 130 mmol), palladium(ll)acetate (100 mg, 0.45 mmol) and 1,3-bis(diphenylphosphino)propane (200 mg, 0.48 mmol) were placed in a round-bottomed flask. The solution was stirred at 75° C. in an atmosphere of carbon monoxide for 4 h. After evaporation of the solvent in vacuo and subjecting the crude to flash chromatography, 2.5 g (86% yield) of the title compound as a colorless oil was isolated. GC/MS (70 eV) M=335 (20 %).

reactant | (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 8.7 mmol, 3.7 g | C1(CCCC1)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C18H23F4NO4S
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 130 mmol, 4 g | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | 1,3-bis(diphenylphosphino)propane | 0.48 mmol, 200 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | Methyl (R)-3-(N-Cyclopentyl-N-n-propylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate | 2.5 g, 86% yield | C1(CCCC1)N(CCC)[C@H]1COC=2C(C1)=C(C=CC2F)C(=O)OC | C19H26FNO3
